US07737141B2
Synthesis of (3S,8aR)-3-(3,4,5-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one
A methylene chloride solution (60 mL) of (E)-3-[(2R,5S)-1-(3-butenoyl)-5-(3,4,5-trifluorophenyl)pyrrolidin-2-yl]acrylic acid ethyl ester (1.33 g) and Grubbs catalyst second generation (153 mg) was heated under reflux for 2 hr. The reaction solution was allowed to cool to room temperature, and then triethylamine (0.5 mL) was added thereto. The resulting mixture was stirred for 1 hr and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1 to 0:1) to give 680 mg of the title compound. The physical property values of this compound were as follows:

reactant | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
reactant | (E)-3-[(2R,5S)-1-(3-butenoyl)-5-(3,4,5-trifluorophenyl)pyrrolidin-2-yl]acrylic acid ethyl ester | 1.33 g | C(C)OC(\C=C\[C@@H]1N([C@@H](CC1)C1=CC(=C(C(=C1)F)F)F)C(CC=C)=O)=O | C19H20F3NO3
catalyst | Grubbs catalyst second generation | 153 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
product | (3S,8aR)-3-(3,4,5-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one | 680 mg | FC=1C=C(C=C(C1F)F)[C@@H]1CC[C@@H]2C=CCC(N12)=O | C14H12F3NO
